US06936608B2
To 2-(5-bromo-2-fluorophenyl)-3,5-difluoropyridine (0.746 g, 2.59 mmol) and bis(neopentyl glycolato)diboron (0.704 g) was added dry 1,4-dioxane (9 ml) and dry dimethylsulfoxide (1.1 ml), followed by dry potassium acetate (0.542 g) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.080 g). The mixture was thoroughly degassed with nitrogen, and then stirred at 85° C. for 24 h. On cooling to room temperature, 1 N aqueous sodium hydroxide (24 ml) was added, and the mixture stirred for 0.5 h. Diethyl ether was added and the aqueous phase was separated and washed with diethyl ether. The organic extracts were washed with water, and the combined aqueous phases were filtered, then acidified to pH 5 by addition of 2 N aqueous hydrochloric acid (12 ml). The resulting solid was collected by filtration, washed with water, and dried in vacuo at 60° C. to afford 0.618 g of 4-fluoro-3-(3,5-difluoropyridin-2-yl)phenylboronic acid as a colourless solid: 1H NMR (400 MHz, DMSO-d6) δ 8.69 (1H, d, J 2.3 Hz), 8.21 (2H, s), 7.94-8.14 (3H, m), 7.34 (1H, dd, J 8.2, 10.6 Hz).

reactant | 2-(5-bromo-2-fluorophenyl)-3,5-difluoropyridine | 2.59 mmol, 0.746 g | BrC=1C=CC(=C(C1)C1=NC=C(C=C1F)F)F | C11H5BrF3N
reactant | bis(neopentyl glycolato)diboron | 0.704 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | 1,4-dioxane | 9 ml | O1CCOCC1 | C4H8O2
reactant | potassium acetate | 0.542 g | C(C)(=O)[O-].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.080 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | dimethylsulfoxide | 1.1 ml | CS(=O)C | C2H6OS
product | 4-fluoro-3-(3,5-difluoropyridin-2-yl)phenylboronic acid | 0.618 g | FC1=C(C=C(C=C1)B(O)O)C1=NC=C(C=C1F)F | C11H7BF3NO2
